US05753664
1-[4-(4-Chlorobenzoyl)benzyl]-5-methyl-7-chloropyrrolo [2,3-d]pyridazin-4(5H)-one
In DMF (15 ml) was dissolved 1-[4-(4-chlorobenzoyl)benzyl]-7-chloropyrrolo [2,3-d]pyridazin-4(5H)-one (352 mg) followed by addition of potassium carbonate (858 mg). Then, methyl iodide (0.06 ml) was added and the mixture was stirred at room temperature for 16 hours. The reaction mixture was diluted with water (30 ml) and extracted with ethyl acetate (200 ml). The organic layer was washed with water (100 ml) 3 times and saturated aqueous NaCl solution once and dried over anhydrous magnesium sulfate. After removal of the desiccant by filtration, the solvent was distilled off under reduced pressure and the resulting crystals were rinsed with hexane to provide 290 mg (yield 80%) of the title compound.

reactant | 1-[4-(4-chlorobenzoyl)benzyl]-7-chloropyrrolo [2,3-d]pyridazin-4(5H)-one | 352 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C=CC4=C3C(=NNC4=O)Cl)C=C2)C=C1 | C20H13Cl2N3O2
reactant | potassium carbonate | 858 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.06 ml | CI | CH3I
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | 1-[4-(4-Chlorobenzoyl)benzyl]-5-methyl-7-chloropyrrolo [2,3-d]pyridazin-4(5H)-one | 290 mg, yield 80% | ClC1=CC=C(C(=O)C2=CC=C(CN3C=CC4=C3C(=NN(C4=O)C)Cl)C=C2)C=C1 | C21H15Cl2N3O2
